US07767854B2
To a mixture of potassium t-butoxide (2.05 g) and anhydrous N,N-dimethylformamide (60 ml) was added butyltriphenylphosphonium bromide (7.30 g) at room temperature. The mixture was stirred for 15 minutes and then a solution of t-butyl 4-oxocyclohexylcarbamate (1.30 g) in N,N-dimethylformamide (10 ml) was added to the mixture. The reaction mixture was stirred at room temperature overnight and then saturated aqueous ammonium chloride was added to the mixture. The mixture was extracted with toluene, and the organic layer was washed with brine, dried over sodium sulfate, and then the solvent was removed in vacuo. After diethyl ether was added to the residue, the precipitate was filtered off and then the filtrate was concentrated under reduced pressure. The residue was purified by a silica gel chromatography (eluent: gradient from 100% hexane/0% ethyl acetate to 0% hexane/100% ethyl acetate) to give 1.40 g of t-butyl (4-butylidenecyclohexyl)carbamate.

reactant | potassium t-butoxide | 2.05 g | CC(C)([O-])C.[K+]
reactant | t-butyl 4-oxocyclohexylcarbamate | 1.30 g | O=C1CCC(CC1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
catalyst | butyltriphenylphosphonium bromide | 7.30 g | [Br-].C(CCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | t-butyl (4-butylidenecyclohexyl)carbamate | 1.40 g | C(CCC)=C1CCC(CC1)NC(OC(C)(C)C)=O | C15H27NO2
